US05171863
3-Phenyl-2-triethylsilyl-4-furanmethanol
LiAlH4 (1.0M solution in hexane, 1.48 ml, 1.48 mmol) was added dropwise to a solution of 3-phenyl-2-triethylsilyl-4-furaldehyde (422 mg, 1.48 mmol) in tetrahydrofuran (10 ml) at 0 degrees under argon. This mixture was warmed to room temperature, quenched with ice-cold 5% (V/V) hydrochloric acid and the organics were extracted into ethyl ether. The combined fractions were washed with saturated sodium bicarbonate, H2O and brine. The dried extracts (magnesium sulfate) were concentrated to an oil which was purified by flash chromatography on silica using 20% ethyl acetate/hexanes to give the title compound.

reactant | LiAlH4 | 1.48 mmol, 1.0M, 1.48 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-phenyl-2-triethylsilyl-4-furaldehyde | 1.48 mmol, 422 mg | C1(=CC=CC=C1)C1=C(OC=C1C=O)[Si](CC)(CC)CC | C17H22O2Si
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Phenyl-2-triethylsilyl-4-furanmethanol | C1(=CC=CC=C1)C1=C(OC=C1CO)[Si](CC)(CC)CC | C17H24O2Si
